* ==========================================================================
* @part: LM5109B
* @family: drivers
* @source: TI
* @url: https://www.ti.com/lit/zip/SNVMAM8
* @origin-file: ti/LM5109B/SNVMAM8/LM5109B_TRANS.LIB
* @retrieved: 2026-09-24
* @licence: condition: "The model is provided solely on an "as is" basis."; notice: "(C) Copyright 2016 Texas Instruments Incorporated. All rights reserved."
* @added-by: garv.singh
* @pins: LM5109B_TRANS: VDD HI LI VSS HB HO HS LO
* @notes: 100 V half-bridge gate driver
* @patched: 17 helper subckt/model name(s) suffixed with '__LM5109B' so this file can be included together with other files
* The complete origin file follows (modified, see @patched).
* ==========================================================================

*$
* LM5109B 
*****************************************************************************
* (C) Copyright 2016 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: LM5109B 
* Date: 08MAR2016 
* Model Type: Transient
* Simulator: PSpice
* Simulator Version: 16.2.0.p001
* EVM Order Number: NA
* EVM User's Guide: NA
* Data sheet: SNVS477C–FEBRUARY 2007–REVISED JANUARY 2016
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*
*****************************************************************************
*
* Model Usage Notes:
*
* A. Features have been modelled
*	1. Output timing characteristics
*	2. UVLO for High side & Low side driver  
*	3. Peak Source & Sink Current for VDD = VHB = 12V
*	4. HI,LI-Input Thresholds vs VDD supply voltage 
*
* B. Features haven't been modelled
*	1. Quiescent Current vs Supply Voltage
*	2. Temperature dependent characteristics 
*	3. Frequency dependent plots 
*
*****************************************************************************
.SUBCKT LM5109B_TRANS VDD HI LI VSS HB HO HS LO  
C_U3A_C1         U3A_N16789866 HB  5p  
C_U3A_C3         HO U3A_N16789866  10p  
E_U3A_E1         U3A_N16790231 HO VALUE { IF(V(GATE_HD, 0) > 0.5, 5, -5) }
R_U3A_R1         U3A_N16790231 U3A_N16789866  151  
M_U3A_M2         HS U3A_N08192 HO HO PMOS01__LM5109B           
X_U3A_U10         HS HO D_D1__LM5109B 
R_U3A_R2         U3A_N16789868 U3A_N08192  150  
C_U3A_C2         HS U3A_N08192  5p  
X_U3A_U9         HO HB D_D1__LM5109B 
C_U3A_C5         HO HB  10pF  
C_U3A_C6         HO U3A_N08192  10p  
C_U3A_C4         HS HO  10pF  
M_U3A_M1         HB U3A_N16789866 HO HO NMOS01__LM5109B           
E_U3A_E2         HO U3A_N16789868 VALUE { IF(V(GATE_HD, 0) > 0.5, -5, 5) }
X_U1         VDD_INT VDD_TH VDD_UVLO COMP_BASIC_GEN__LM5109B PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
C_U3B_C1         U3B_N16789866 VDD  5p  
C_U3B_C3         LO U3B_N16789866  10p  
E_U3B_E1         U3B_N16790231 LO VALUE { IF(V(GATE_LD, 0) > 0.5, 5, -5) }
R_U3B_R1         U3B_N16790231 U3B_N16789866  151  
M_U3B_M2         VSS U3B_N16789871 LO LO PMOS01__LM5109B           
X_U3B_U10         VSS LO D_D1__LM5109B 
R_U3B_R2         U3B_N16789868 U3B_N16789871  150  
C_U3B_C2         VSS U3B_N16789871  5p  
X_U3B_U9         LO VDD D_D1__LM5109B 
C_U3B_C5         LO VDD  10pF  
C_U3B_C6         LO U3B_N16789871  10p  
C_U3B_C4         VSS LO  10pF  
M_U3B_M1         VDD U3B_N16789866 LO LO NMOS01__LM5109B           
E_U3B_E2         LO U3B_N16789868 VALUE { IF(V(GATE_LD, 0) > 0.5, -5, 5) }
E_E2         VDD_INT 0 VDD VSS 1
E_ABM1         VDD_TH 0 VALUE { IF ( V(VDD_UVLO) < 0.5, 6.7, 6.2 )    }
C_U7_C1         U7_N14683769 0  1n IC=0 
X_U7_U46         GATE_LD N18200399 U7_N14683159 NOR2_BASIC_GEN__LM5109B PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_U7_U43         U7_N14683769 GATE_LD BUF_BASIC_GEN__LM5109B PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
X_U7_U48         U7_N147032561 U7_N14683769 D_D1__LM5109B 
V_U7_V6         U7_N147032561 0 80m
X_U7_S2    U7_N14683147 0 U7_N14683887 U7_N14683769 TON_TOFF_U7_S2__LM5109B 
G_U7_ABM2I1         U7_N14683173 U7_N14683769 VALUE { IF(V(N18200399) > 0.5,
+  22.8m,0)    }
X_U7_U44         N18200399 GATE_LD U7_N14683147 AND2_BASIC_GEN__LM5109B PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
G_U7_ABM2I2         U7_N14683769 0 VALUE { IF(V(N18200399) < 0.5, 26.5m, 0)   
+  }
V_U7_V4         U7_N14683887 0 1Vdc
X_U7_S1    U7_N14683159 0 U7_N14683769 0 TON_TOFF_U7_S1__LM5109B 
V_U7_V5         U7_N14683173 0 1Vdc
X_U7_U47         U7_N14683769 U7_N14683173 D_D1__LM5109B
X_U17         N18187886 N18187850 N18200399 N18208809 SRLATCHRHP_BASIC_GEN__LM5109B
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_U5_U5         LI U5_THRISE U5_HYS N18187886 COMPHYS_BASIC_GEN__LM5109B PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
R_U5_Rin         LI VSS  200k  
E_U5_E1         U5_THRISE VSS TABLE { V(VDD, VSS) } 
+ ((8,1.861)(9,1.87)(10,1.878)(11,1.886)(12,1.895)(13,1.899)(14,1.908)
+(15,1.913)(16,1.915))
E_U5_E2         U5_HYS VSS TABLE { V(VDD, VSS) } 
+ ( (8,53m)(9,51m)(10,48m)(11,49m)(12,51m)(13,49m)(14,52m)(15,50m)(16,47m) )
X_U33         N18188010 N18187855 N18187850 OR2_BASIC_GEN__LM5109B PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U15         VDD_UVLO N18188010 INV_BASIC_GEN__LM5109B PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U13         N18187886 N18187855 INV_BASIC_GEN__LM5109B PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U16         N18187973 N18187939 N18203660 N18187960 SRLATCHRHP_BASIC_GEN__LM5109B
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
R_Rss         0 VSS  1 TC=0,0 
X_U12         N18187973 N18187942 INV_BASIC_GEN__LM5109B PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U1_U5         HI U1_THRISE U1_HYS N18187973 COMPHYS_BASIC_GEN__LM5109B PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
R_U1_Rin         HI VSS  200k  
E_U1_E1         U1_THRISE VSS TABLE { V(VDD, VSS) } 
+ ((8,1.861)(9,1.87)(10,1.878)(11,1.886)(12,1.895)(13,1.899)(14,1.908)
+(15,1.913)(16,1.915))
E_U1_E2         U1_HYS VSS TABLE { V(VDD, VSS) } 
+ ( (8,53m)(9,51m)(10,48m)(11,49m)(12,51m)(13,49m)(14,52m)(15,50m)(16,47m) )
X_U34         VDD_UVLO VHBHS_UVLO UVLO NAND2_BASIC_GEN__LM5109B PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U6         HB_INT HB_TH VHBHS_UVLO COMP_BASIC_GEN__LM5109B PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
X_U32         UVLO N18187942 N18187939 OR2_BASIC_GEN__LM5109B PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
C_U2_C1         U2_N14683769 0  1n IC=0 
X_U2_U46         GATE_HD N18203660 U2_N14683159 NOR2_BASIC_GEN__LM5109B PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_U2_U43         U2_N14683769 GATE_HD BUF_BASIC_GEN__LM5109B PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
X_U2_U48         U2_N147032561 U2_N14683769 D_D1__LM5109B 
V_U2_V6         U2_N147032561 0 80m
X_U2_S2    U2_N14683147 0 U2_N14683887 U2_N14683769 TON_TOFF_U2_S2__LM5109B 
G_U2_ABM2I1         U2_N14683173 U2_N14683769 VALUE { IF(V(N18203660) > 0.5,
+  22.8m,0)    }
X_U2_U44         N18203660 GATE_HD U2_N14683147 AND2_BASIC_GEN__LM5109B PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
G_U2_ABM2I2         U2_N14683769 0 VALUE { IF(V(N18203660) < 0.5, 26.5m, 0)   
+  }
V_U2_V4         U2_N14683887 0 1Vdc
X_U2_S1    U2_N14683159 0 U2_N14683769 0 TON_TOFF_U2_S1__LM5109B 
V_U2_V5         U2_N14683173 0 1Vdc
X_U2_U47         U2_N14683769 U2_N14683173 D_D1__LM5109B 
E_ABM5         HB_TH 0 VALUE { IF ( V(VHBHS_UVLO) < 0.5, 6.6, 6.2)    }
E_E6         HB_INT 0 HB HS 1
.ENDS LM5109B_TRANS
*$
.SUBCKT TON_TOFF_U7_S2__LM5109B 1 2 3 4  
S_U7_S2         3 4 1 2 _U7_S2
RS_U7_S2         1 2 1G
.MODEL         _U7_S2 VSWITCH Roff=100e6 Ron=1m Voff=0.2 Von=0.8
.ENDS TON_TOFF_U7_S2__LM5109B
*$
.SUBCKT TON_TOFF_U7_S1__LM5109B 1 2 3 4  
S_U7_S1         3 4 1 2 _U7_S1
RS_U7_S1         1 2 1G
.MODEL         _U7_S1 VSWITCH Roff=100e6 Ron=1m Voff=0.2 Von=0.8
.ENDS TON_TOFF_U7_S1__LM5109B
*$
.SUBCKT TON_TOFF_U2_S2__LM5109B 1 2 3 4  
S_U2_S2         3 4 1 2 _U2_S2
RS_U2_S2         1 2 1G
.MODEL         _U2_S2 VSWITCH Roff=100e6 Ron=1m Voff=0.2 Von=0.8
.ENDS TON_TOFF_U2_S2__LM5109B
*$
.SUBCKT TON_TOFF_U2_S1__LM5109B 1 2 3 4  
S_U2_S1         3 4 1 2 _U2_S1
RS_U2_S1         1 2 1G
.MODEL         _U2_S1 VSWITCH Roff=100e6 Ron=1m Voff=0.2 Von=0.8
.ENDS TON_TOFF_U2_S1__LM5109B
*$
.SUBCKT INV_BASIC_GEN__LM5109B A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS INV_BASIC_GEN__LM5109B
*$
.SUBCKT OR2_BASIC_GEN__LM5109B A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |  
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS OR2_BASIC_GEN__LM5109B
*$
**Reset has higher priority in this latch
.SUBCKT SRLATCHRHP_BASIC_GEN__LM5109B S R Q QB PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
GQ 0 Qint VALUE = {IF(V(R) > {VTHRESH},-5,IF(V(S)>{VTHRESH},5, 0))}
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1__LM5109B
V1 MY5 0 {VDD}
D_D11 MYVSS Qint D_D1__LM5109B
V2 MYVSS 0 {VSS} 
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_BASIC_GEN__LM5109B PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
RQq Qqqd1 Q 1
EQb Qbr 0 VALUE = {IF( V(Q) > {VTHRESH}, {VSS},{VDD})}
RQb Qbr QB 1 
Cdummy1 Q 0 1n 
Cdummy2 QB 0 1n
.IC V(Qint) {VSS}
.MODEL D_D1__LM5109B D (IS=1e-15 TT=10p Rs=0.05 N=0.1)
.ENDS SRLATCHRHP_BASIC_GEN__LM5109B
*$
.SUBCKT D_D1__LM5109B 1 2
D1 1 2 DD1
.MODEL DD1 D (IS=1e-15 TT=10p Rs=0.001 N=0.1 )
.ENDS D_D1__LM5109B
*$
.SUBCKT BUF_BASIC_GEN__LM5109B A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS BUF_BASIC_GEN__LM5109B
*$
.SUBCKT COMP_BASIC_GEN__LM5109B INP INM Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
E_ABM Yint 0 VALUE {IF (V(INP) > 
+ V(INM), {VDD},{VSS})}
R1 Yint Y 1
C1 Y 0 1n
.ENDS COMP_BASIC_GEN__LM5109B
*$
.SUBCKT NAND2_BASIC_GEN__LM5109B A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH},{VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS NAND2_BASIC_GEN__LM5109B
*$
.MODEL NMOS01__LM5109B NMOS (VTO = 2 KP = 0.22 LAMBDA  = 0.001)
*$
.MODEL PMOS01__LM5109B PMOS (VTO = -2 KP = 0.22 LAMBDA  = 0.001)
*$
.SUBCKT AND2_BASIC_GEN__LM5109B A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND2_BASIC_GEN__LM5109B
*$
.SUBCKT COMPHYS_BASIC_GEN__LM5109B INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
EIN INP1 INM1 INP INM 1 
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 5n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN__LM5109B
*$
.SUBCKT POWERMOS__LM5109B G D S PARAMS: RDSON=16m Ciss=1375p Crss=70p Coss=340p VSP=3.5 RG=1
* This is a simple model for Power MOSFET.
* The parameters modeled are
* - RDSon,
* - Input Capacitance,
* - Reverse capacitance,
* - Output capacitance,
* - Switching point voltage (Gate voltage where the FET starts switching),
* - Gate Resistance
C_C1         S Da  {Coss} IC=0
R_R1         Da D  10
C_C2         Ga D  {Crss}  IC=0
R_R2         G Ga {RG}
C_C3         Ga S  {Ciss} IC=0
D_D1__LM5109B         S Db Dbreak
R_R3         Db D 1m
S_switchM         D S Ga S _switchM
RS_switchM         Ga S 100Meg
.MODEL         _switchM VSWITCH Roff=100e6 Ron={RDSON} Voff=1.1 Von={VSP}
.model Dbreak D Is=1e-14 Cjo=.1pF Rs=.1
.ENDS POWERMOS__LM5109B
*$
.SUBCKT NOR2_BASIC_GEN__LM5109B A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |  
+ V(B) > {VTHRESH},{VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS NOR2_BASIC_GEN__LM5109B
*$
